US04954511
To 50 ml of methanol, was added 4.0 g of 4-(2,3,4,5,6-pentafluorophenoxy)-4-phenylpiperidine and 15 ml of a 37% aqueous formaldehyde solution. After stirring at 70° C. for two hours, the mixture was cooled, and treated (portionwise) with 2.5 g of sodium borohydride over a period of five minutes. After stirring at ambient temperature for two hours, the reaction mixture was evaporated to a semi-solid. The semi-solid was stirred with 50 ml water, then extracted with ethyl acetate. The organic layer was washed with water, followed by a saturated sodium chloride solution, and dried over anhydrous magnesium sulfate. After filtering, evaporation of the solvent yielded a residue which was purified by means of a high pressure liquid chromatography (silica gel, elution with 5% methanol/dichloromethane). The desired fractions were combined, then evaporated to afford 1-methyl-4-(2,3,4,5,6-pentafluorophenoxy)-4-phenylpiperidine as an oil. The oil was dissolved in isopropanol, and acidified to pH 1with etheral-oxalic acid. The resultant precipitate was collected and dried to give 2.5 g (47%), of 1-methyl-4-(2,3,4,5,6-pentaflurophenoxy)-4-phenylpiperidine oxalate, m.p. 152°-154° C. (dec).

reactant | 4-(2,3,4,5,6-pentafluorophenoxy)-4-phenylpiperidine | 4.0 g | FC1=C(OC2(CCNCC2)C2=CC=CC=C2)C(=C(C(=C1F)F)F)F | C17H14F5NO
reactant | formaldehyde | C=O | CH2O
reactant | sodium borohydride | 2.5 g | [BH4-].[Na+]
solvent | methanol | 50 ml | CO | CH4O
product | 1-methyl-4-(2,3,4,5,6-pentafluorophenoxy)-4-phenylpiperidine | CN1CCC(CC1)(C1=CC=CC=C1)OC1=C(C(=C(C(=C1F)F)F)F)F | C18H16F5NO
